US06455528B1
(4) N-(4-Chloromethylphenylmethyl)acetamide
To a solution of N-(4-hydroxymethylphenylmethyl)acetamide (1.5 g) in chloroform (50 ml) was added thionyl chloride (0.73 ml) and the mixture was refluxed under heating for 1 hr. The solvent was evaporated and the obtained residue was crystallized from ethyl acetate to give the title compound (1.8 g) as pale-yellow crystals.

reactant | N-(4-hydroxymethylphenylmethyl)acetamide | 1.5 g | OCC1=CC=C(C=C1)CNC(C)=O | C10H13NO2
reactant | thionyl chloride | 0.73 ml | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(4-Chloromethylphenylmethyl)acetamide | 1.8 g | ClCC1=CC=C(C=C1)CNC(C)=O | C10H12ClNO
